US08067445B2
Step 4: [2′-(1-Ethylamino-ethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
(2′-Acetyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.222 g, 0.61 mmol), ethylamine (2M in THF; 0.46 mL, 0.91 mmol), sodium cyanoborohydride (0.058 g, 0.91 mmol), and acetic acid (0.05 mL, 0.91 mmol) were combined in MeOH (2.2 mL) and heated to 60° C. overnight. Analytical LCMS showed starting material remained, so the reaction was stirred at 60° C. over the weekend. Once minimal starting material was seen by analytical LCMS, the mixture was cooled to room temperature and neutralized with saturated aqueous NaHCO3. The solution was extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | (2′-Acetyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.61 mmol, 0.222 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C(C)=O)=O | C19H17F3O4
reactant | ethylamine | 0.91 mmol, 2M, 0.46 mL | C(C)N | C2H7N
reactant | sodium cyanoborohydride | 0.91 mmol, 0.058 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.91 mmol, 0.05 mL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 2.2 mL | CO | CH4O
product | [2′-(1-Ethylamino-ethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C(C)NCC)=O | C21H24F3NO3
